US04442108
N-[2-(3,4-di-n-propoxyphenyl)ethyl]-3,4-diethoxy-phenylacetamide was prepared from 2-(3,4-di-n-propoxyphenyl)ethylamine and ethyl 3,4-diethoxyphenylacetate using the process described in Example 1 (a).

reactant | 2-(3,4-di-n-propoxyphenyl)ethylamine | C(CC)OC=1C=C(C=CC1OCCC)CCN | C14H23NO2
reactant | ethyl 3,4-diethoxyphenylacetate | C(C)OC=1C=C(C=CC1OCC)CC(=O)OCC | C14H20O4
product | N-[2-(3,4-di-n-propoxyphenyl)ethyl]-3,4-diethoxy-phenylacetamide | C(CC)OC=1C=C(C=CC1OCCC)CCNC(CC1=CC(=C(C=C1)OCC)OCC)=O | C26H37NO5
